US06664395B2
3-Ethylamino-4-nitro-benzonitrile (0.3 g) was diluted with ethanol (5 mL) and was treated with 10% palladium on carbon (Pd/C)(0.070 g). The mixture was then shaken in a hydrogenation shaker under an atmosphere of hydrogen (40 psi) for 30 minutes. The resulting mixture was filtered through diatomaceous earth and concentrated. Silica gel chromatography using 20% ethyl acetate in hexanes as eluent gave 4-amino-3-ethylamino-benzonitrile (0.08 g).

reactant | 3-Ethylamino-4-nitro-benzonitrile | 0.3 g | C(C)NC=1C=C(C#N)C=CC1[N+](=O)[O-] | C9H9N3O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.070 g | [Pd] | Pd
product | 4-amino-3-ethylamino-benzonitrile | 0.08 g | NC1=C(C=C(C#N)C=C1)NCC | C9H11N3
